US04863958
To a solution of 2-carboethoxy-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran (22 gm, 0.074 mole) in methanol (1.2 liter) was added 2N sodium hydroxide (120 mL) and the resulting solution was refluxed for a period of 6 hours. The reaction mixture was concentrated in vacuo. The residue was acidified with 3N hydrochloric acid and then extracted with ethylacetate. The organic phase was dried (Na2SO4), concentrated in vacuo, and 3-methyl-4-hydroxy-5-propyl-7-chlorobenzofurancarboxylic acid (17 gm; 88%) was isolated by filtering the solid after suspending in hexane; m.p.: 200°-203° C.

reactant | 2-carboethoxy-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran | 0.074 mole, 22 gm | C(=O)(OCC)C=1OC2=C(C1C)C(=C(C=C2Cl)CCC)O | C15H17ClO4
reactant | sodium hydroxide | 2N, 120 mL | [OH-].[Na+]
solvent | methanol | 1.2 liter | CO | CH4O
product | 3-methyl-4-hydroxy-5-propyl-7-chlorobenzofurancarboxylic acid | 17 gm, 88% | CC1=C(OC2=C1C(=C(C=C2Cl)CCC)O)C(=O)O | C13H13ClO4
